US05591741
(ii) Preparation of 8-t-butyl-3-(p-toluenesulfonyloxy)-1-oxaspiro-(4,5)decane
To a solution of 8-t-butyl-3-hydroxy-1-oxaspiro(4,5)decane (4.24 g, 20 mmol) in THF (50 ml) was added sodium hydride (0.72 g, 24 mmol, 80% in mineral oil) and the mixture was heated to reflux for 3 hours. p-Toluenesulfonylchloride (4.56 g, 24 mmol) in THF (10 ml) was then added and heating was continued for another 3 hours. The solvent was evaporated, toluene and water were added (50 ml, each) and the phases were separated. A pale yellow oil (7.3 g) was isolated from the organic layer which was treated with light petroleum to yield colourless crystals (5.6 g), melting at 101° C.

reactant | 8-t-butyl-3-hydroxy-1-oxaspiro(4,5)decane | 20 mmol, 4.24 g | C(C)(C)(C)C1CCC2(CC(CO2)O)CC1 | C13H24O2
reactant | sodium hydride | 24 mmol, 0.72 g | [H-].[Na+]
reactant | p-Toluenesulfonylchloride | 24 mmol, 4.56 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 8-t-butyl-3-(p-toluenesulfonyloxy)-1-oxaspiro-(4,5)decane | 7.3 g | C(C)(C)(C)C1CCC2(CC(CO2)OS(=O)(=O)C2=CC=C(C=C2)C)CC1 | C20H30O4S
